### PR TITLE
[Merged by Bors] - feat: first moment method

### PR DESCRIPTION
**Pull request by urkud**
Forward-port leanprover-community/mathlib#18731
Also sync some parentheses with the lates `mathport` output.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/Average.lean [hunk 1]
```diff
@@ -211,4 +223,215 @@ theorem set_average_const {s : Set α} (hs₀ : μ s ≠ 0) (hs : μ s ≠ ∞)
     ENNReal.one_toReal, one_smul]
 #align measure_theory.set_average_const MeasureTheory.set_average_const
 
+-- porting note: was `@[simp]` but `simp` can prove it
+theorem integral_average (μ : Measure α) [IsFiniteMeasure μ] (f : α → E) :
+    ∫ _, ⨍ a, f a ∂μ ∂μ = ∫ x, f x ∂μ := by
+  simp
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/Average.lean:229]:
```suggestion
    ∫ _, ⨍ a, f a ∂μ ∂μ = ∫ x, f x ∂μ := by simp
```
no?

File: Mathlib/MeasureTheory/Integral/Average.lean [hunk 2]
```diff
@@ -211,4 +223,215 @@ theorem set_average_const {s : Set α} (hs₀ : μ s ≠ 0) (hs : μ s ≠ ∞)
     ENNReal.one_toReal, one_smul]
 #align measure_theory.set_average_const MeasureTheory.set_average_const
 
+-- porting note: was `@[simp]` but `simp` can prove it
+theorem integral_average (μ : Measure α) [IsFiniteMeasure μ] (f : α → E) :
+    ∫ _, ⨍ a, f a ∂μ ∂μ = ∫ x, f x ∂μ := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/Average.lean:228]: Do we know what changed?

File: Mathlib/MeasureTheory/Integral/Average.lean [hunk 3]
```diff
@@ -211,4 +223,215 @@ theorem set_average_const {s : Set α} (hs₀ : μ s ≠ 0) (hs : μ s ≠ ∞)
...
+theorem set_integral_set_average_sub (hs : μ s ≠ ∞) (hf : IntegrableOn f s μ) :
+    ∫ x in s, ⨍ a in s, f a ∂μ - f x ∂μ = 0 :=
+  haveI : Fact (μ s < ∞) := ⟨lt_top_iff_ne_top.2 hs⟩
+  integral_average_sub hf
+#align measure_theory.set_integral_set_average_sub MeasureTheory.set_integral_set_average_sub
+
+end NormedAddCommGroup
+
+theorem ofReal_average {f : α → ℝ} (hf : Integrable f μ) (hf₀ : 0 ≤ᵐ[μ] f) :
+    ENNReal.ofReal (⨍ x, f x ∂μ) = (∫⁻ x, ENNReal.ofReal (f x) ∂μ) / μ univ := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/Average.lean:266]:
```suggestion
    ENNReal.ofReal (⨍ x, f x ∂μ) = ∫⁻ x, ENNReal.ofReal (f x) ∂μ / μ univ := by
```

File: Mathlib/MeasureTheory/Integral/Average.lean [hunk 4]
```diff
@@ -211,4 +223,215 @@ theorem set_average_const {s : Set α} (hs₀ : μ s ≠ 0) (hs : μ s ≠ ∞)
...
+  obtain rfl | hμ := eq_or_ne μ 0
+  · simp
+  · rw [average_eq, smul_eq_mul, ← toReal_inv, ofReal_mul toReal_nonneg,
+      ofReal_toReal (inv_ne_top.2 <| measure_univ_ne_zero.2 hμ),
+      ofReal_integral_eq_lintegral_ofReal hf hf₀, ENNReal.div_eq_inv_mul]
+#align measure_theory.of_real_average MeasureTheory.ofReal_average
+
+theorem ofReal_set_average {f : α → ℝ} (hf : IntegrableOn f s μ) (hf₀ : 0 ≤ᵐ[μ.restrict s] f) :
+    ENNReal.ofReal (⨍ x in s, f x ∂μ) = (∫⁻ x in s, ENNReal.ofReal (f x) ∂μ) / μ s := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/Average.lean:275]:
```suggestion
    ENNReal.ofReal (⨍ x in s, f x ∂μ) = ∫⁻ x in s, ENNReal.ofReal (f x) ∂μ / μ s := by
```

File: Mathlib/MeasureTheory/Integral/Average.lean [hunk 5]
```diff
@@ -211,4 +223,215 @@ theorem set_average_const {s : Set α} (hs₀ : μ s ≠ 0) (hs : μ s ≠ ∞)
...
+  simpa using ofReal_average hf hf₀
+#align measure_theory.of_real_set_average MeasureTheory.ofReal_set_average
+
+theorem average_toReal {f : α → ℝ≥0∞} (hf : AEMeasurable f μ) (hf' : ∀ᵐ x ∂μ, f x ≠ ∞) :
+    ⨍ x, (f x).toReal ∂μ = ((∫⁻ x, f x ∂μ) / μ univ).toReal := by
+  rw [average_eq, smul_eq_mul, toReal_div, ←
+    integral_toReal hf (hf'.mono fun _ => lt_top_iff_ne_top.2), div_eq_inv_mul]
+#align measure_theory.average_to_real MeasureTheory.average_toReal
+
+theorem set_average_toReal {f : α → ℝ≥0∞} (hf : AEMeasurable f (μ.restrict s))
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/Average.lean:285]:
```suggestion
theorem setAverage_toReal {f : α → ℝ≥0∞} (hf : AEMeasurable f (μ.restrict s))
```
and everywhere else

File: Mathlib/MeasureTheory/Integral/Average.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/MeasureTheory/Integral/Average.lean:228]: Possibly, `simp` was able to prove it in Lean 3 too but this lemma was later in the list, so it was applied first.

File: Mathlib/MeasureTheory/Integral/Average.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/MeasureTheory/Integral/Average.lean:229]: Feel free to push to this branch. It is porting your code.

**Comment by semorrison** [comment]
I've marked this `awaiting-author` to get it off the queue for now, but from the comments above it may be waiting for @YaelDillies. :-)

File: Mathlib/MeasureTheory/Integral/Average.lean [hunk 6]
```diff
@@ -51,10 +59,11 @@ integral.
 
 -/
 
-
 namespace MeasureTheory
 
-variable (μ)
+section NormedAddCommGroup
+
+variable (μ) {f g : α → E}
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Integral/Average.lean:66]: Doesn't this need to be
```suggestion
variable (μ)
variable {f g : α → E}
```
otherwise it create a new `μ` variable?

**Review by eric-wieser — APPROVED** [review]
bors d=@YaelDillies

File: Mathlib/MeasureTheory/Integral/Average.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/MeasureTheory/Integral/Average.lean]: (applied, I confirmed this myself)

**Comment by YaelDillies** [comment]
Thanks for the fix!

bors merge
